US04022769
Substituting 4-androstene-17β,19-diol dipropionate for the 1α-methyl- 4-androstene-17β,19-diol dipropionate above results in the preparation of 4-androstene-17β,19-diol 17-propionate.

reactant | 4-androstene-17β,19-diol dipropionate | C(CC)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CCCC[C@]3(COC(CC)=O)[C@H]1CC2 | C25H38O4
reactant | 1α-methyl- 4-androstene-17β,19-diol dipropionate | C(CC)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CCC[C@@H]([C@]3(COC(CC)=O)[C@H]1CC2)C | C26H40O4
product | 4-androstene-17β,19-diol 17-propionate | C(CC)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CCCC[C@]3(CO)[C@H]1CC2 | C22H34O3
